US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-5-chloro-2-furamide
Beginning with 9.0 mg (0.029 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 8.5 mg (0.058 mMol) of 5-chloro-2-furoic acid, 0.8 mg (7.7%) of the title compound were produced.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | 5-chloro-2-furoic acid | 0.058 mMol, 8.5 mg | ClC1=CC=C(O1)C(=O)O | C5H3ClO3
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-5-chloro-2-furamide | 0.8 mg, 7.7% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C=3OC(=CC3)Cl)CC1)C | C19H19ClN2O3
